Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
Penicillins / Paxil / shrimp
 
Attending: ___.
 
Chief Complaint:
Sternal fracture 
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ male presenting as a transfer from ___
after a ___. Patient triggered on arrival. Patient was the
restrained driver of a car that swerved to avoid an animal
and crash into the guardrail at approximately 40 mph. He was
seen in outside hospital he had a CT scan of the torso
performed showed evidence of a sternal fracture with
retrosternal hematoma. Transfer for further evaluation.
Patient reports right-sided chest wall pain.

 
Past Medical History:
Hypertension, asthma, ulcerative colitis, depression, OSA

 
Social History:
___
Family History:
Noncontributory 
 
Physical Exam:
Constitutional: Patient is in no acute distress, awake,
alert, GCS 15
HEENT: Abrasion to the nose, Pupils equal, round and
reactive to light, Extraocular muscles intact
No hemotympanum
Chest: Clear to auscultation
Cardiovascular: Regular Rate and Rhythm, Normal first and
second heart sounds
Abdominal: Soft, bruising to lower abdomen
Extr/Back: No cyanosis, clubbing or edema
Skin: No rash, Warm and dry
Neuro: Speech fluent
Psych: Normal mood, Normal mentation
 
Pertinent Results:
___ 02:35PM URINE  HOURS-RANDOM
___ 02:35PM URINE  bnzodzpn-NEG barbitrt-NEG opiates-POS* 
cocaine-NEG amphetmn-NEG oxycodn-NEG mthdone-NEG Fentanyl-NEG
___ 02:35PM URINE  COLOR-Straw APPEAR-CLEAR SP ___
___ 02:35PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-10* 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NORMAL PH-6.5 
LEUK-NEG
___ 02:35PM URINE  RBC-0 WBC-0 BACTERIA-FEW* YEAST-NONE 
EPI-0
___ 02:35PM URINE  MUCOUS-RARE*
___ 11:16AM   GLUCOSE-98 LACTATE-2.3* CREAT-0.9 NA+-137 
K+-4.0 CL--102 TCO2-28
___ 11:16AM   estGFR-Using this
___ 11:07AM   UREA N-12
___ 11:07AM   LIPASE-9
___ 11:07AM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
tricyclic-NEG
___ 11:07AM   WBC-9.5 RBC-5.25 HGB-14.8 HCT-46.5 MCV-89 
MCH-28.2 MCHC-31.8* RDW-12.5 RDWSD-40.6
___ 11:07AM   NEUTS-73.0* LYMPHS-14.5* MONOS-9.7 EOS-1.7 
BASOS-0.6 IM ___ AbsNeut-6.90* AbsLymp-1.37 AbsMono-0.92* 
AbsEos-0.16 AbsBaso-0.06
___ 11:07AM   PLT COUNT-201
___ 11:07AM   ___ PTT-29.2 ___
 
Brief Hospital Course:
P- s/p MVC
A- sternal fx, right finger fx, seen by hand (non-op)
C- home meds restarted. Untreated HTN, will ___ w/ PCP,started 
on HCTZ at discharge per PCP recs 
___- needs PCP ___ for HTN med titration/eval, ___ with hand 
surgery in 1 week. 

Mr. ___ was transferred from an OSH after an MVC vs deer 
where he was a restrained driver and suffered a sternal fracture 
and retrosternal hematoma. Additional had a right finger 
fracture that was evaluated by hand surgery during his brief 
stay. We started him on a antihypertensive medication after 
discussing this with his primary care provider, as he has had 
elevated blood pressure for some time, and it required IV 
medication while he was under our care.

His pain was well controlled and he was instructed to follow up 
with hand surgery in the upcoming weeks. He was stable to be 
discharged home the following day. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Albuterol Inhaler 2 PUFF IH Q6H:PRN shb/wheezing 
2. Atorvastatin 20 mg PO QPM 
3. Omeprazole 20 mg PO DAILY 
4. Sertraline 25 mg PO DAILY 
5. Fluticasone Propionate 110mcg ___ PUFF IH BID 
6. Ibuprofen 800 mg PO Q8H:PRN Pain - Mild 
7. Mesalamine ___ 1200 mg PO DAILY 

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q8H 
RX *acetaminophen 500 mg 1000 mg by mouth every eight (8) hours 
Disp #*30 Tablet Refills:*0 
2.  Hydrochlorothiazide 25 mg PO DAILY 
RX *hydrochlorothiazide 25 mg 1 tablet(s) by mouth once a day 
Disp #*15 Tablet Refills:*0 
3.  Lidocaine 5% Patch 1 PTCH TD QAM sternal fx 
RX *lidocaine 4 % apply 1 patch to sternum once a day Disp #*14 
Patch Refills:*0 
4.  OxyCODONE (Immediate Release) 5 mg PO Q4H:PRN Pain - 
Moderate 
RX *oxycodone 5 mg 1 tablet(s) by mouth every four (4) hours 
Disp #*5 Tablet Refills:*0 
5.  Polyethylene Glycol 17 g PO DAILY 
RX *polyethylene glycol 3350 17 gram 17 g by mouth once a day 
Disp #*15 Packet Refills:*0 
6.  Albuterol Inhaler 2 PUFF IH Q6H  
7.  Atorvastatin 20 mg PO QPM  
8.  Fluticasone Propionate 110mcg 2 PUFF IH BID  
9.  Ibuprofen 800 mg PO Q8H:PRN Pain - Mild  
10.  Mesalamine ___ 1200 mg PO TID  
11.  Omeprazole 20 mg PO DAILY  
12.  Sertraline 25 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
-Minimally displaced sternal fracture
-Retro sternal hematoma without active extravasation 
-Right hand middle phalanx of the fourth with a  nondisplaced 
intra-articular fracture.

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to ___ after a motor vehicle collision. You 
were found to have a sternal fracture with an associated 
hematoma, and a right ___ digit finger fracture. You were 
monitored closely on telemetry and with EKGs, which remained 
stable. The Hand Surgery team saw you and recommended wearing a 
split and then following up in clinic in 1 week's time. You had 
elevated blood pressure during your inpatient stay. Your primary 
care provider was contacted regarding this and you were started 
on hydrochlorothiazide on discharge. 

You are now cleared for discharge home. Please note the 
following:

* Your injury caused a sternal fracture which can cause severe 
pain and subsequently cause you to take shallow breaths because 
of the pain.
 
* You should take your pain medication as directed to stay ahead 
of the pain otherwise you won't be able to take deep breaths. If 
the pain medication is too sedating take half the dose and 
notify your physician.
 
* Pneumonia is a complication of sternal fractures.  In order to 
decrease your risk you must use your incentive spirometer 4 
times every hour while awake.  This will help expand the small 
airways in your lungs and assist in coughing up secretions that 
pool in the lungs.
 
* You will be more comfortable if you use a cough pillow to hold 
against your chest and guard your rib cage while coughing and 
deep breathing.
 
* Symptomatic relief with ice packs or heating pads for short 
periods may ease the pain.
 
* Narcotic pain medication can cause constipation therefore you 
should take a stool softener twice daily and increase your fluid 
and fiber intake if possible.
 
* Do NOT smoke
 
* If your doctor allows, non-steroidal ___ drugs 
are very effective in controlling pain ( ie, Ibuprofen, Motrin, 
Advil, Aleve, Naprosyn) but they have their own set of side 
effects so make sure your doctor approves.
 
* Return to the Emergency Room right away for any acute 
shortness of breath, increased pain or crackling sensation 
around your ribs (crepitus).

 
Followup Instructions:
___